.global vss
.subckt sc_dc_dc_converter phi1 phi2 vout vin vss
m8 vout phi1 net7 vss sky130_fd_pr__nfet_01v8 w=270e-6 l=20e-9 nfin= 12 nf=832
m7 net7 phi2 vss vss sky130_fd_pr__nfet_01v8 w=270e-6 l=20e-9 nfin= 12 nf=832
m6 vout phi2 net8 vss sky130_fd_pr__nfet_01v8 w=270e-6 l=20e-9 nfin= 12 nf=832
m5 net9 phi1 net8 vss sky130_fd_pr__nfet_01v8 w=270e-6 l=20e-9 nfin= 12 nf=832
m4 net9 phi2 vss vss sky130_fd_pr__nfet_01v8 w=270e-6 l=20e-9 nfin= 12 nf=832
m3 vout phi2 net10 vss sky130_fd_pr__nfet_01v8 w=270e-6 l=20e-9 nfin= 12 nf=832
m0 net10 phi1 vin vss sky130_fd_pr__nfet_01v8 w=270e-6 l=20e-9 nfin= 12 nf=832
c1 net8 net7 1e-12
c0 net10 net9 1e-12
.ends sc_dc_dc_converter
